US07470710B2
Description 18: (RS)-5,6-Difluoro-2-piperidin-2-ylmethyl-1H-benzoimidazole
A mixture of 2-carboxymethyl-piperidine-1-carboxylic acid tert-butyl ester (Beckett et al., J. Med. Chem., 563,1969) (10.0 g, 41 mmol) and 4,5-difluoro-benzene-1,2-diamine (5.95 g, 41 mmol) in polyphosphoric acid (140 g) was heated at 140° C. for 7 h. The cooled reaction mixture was poured onto excess solid potassium carbonate and crushed ice. The resulting basic, aqueous solution was extracted with ethyl acetate (2×) and the combined organics were washed with brine, dried (Na2SO4) and the solvent removed in vacuo. The residue was triturated with diethyl ether, ethyl acetate and pentane to afford the title compound as a light brown solid (7.14 g, 69%).

reactant | 2-carboxymethyl-piperidine-1-carboxylic acid tert-butyl ester | 41 mmol, 10.0 g | C(C)(C)(C)OC(=O)N1C(CCCC1)CC(=O)O | C12H21NO4
reactant | 4,5-difluoro-benzene-1,2-diamine | 41 mmol, 5.95 g | FC=1C=C(C(=CC1F)N)N | C6H6F2N2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | (RS)-5,6-Difluoro-2-piperidin-2-ylmethyl-1H-benzoimidazole | 7.14 g, 69% | FC1=CC2=C(NC(=N2)CC2NCCCC2)C=C1F | C13H15F2N3
